US07625903B2
Ethyl 4-({5-fluoro-4-[(2-{[(1 methylethyl)amino]carbonyl}phenyl)amino]-2pyrimidinyl}amino)benzoate
To the solution of 2-[(2-chloro-5-fluoro-4-pyrimidinyl)amino]-N-(1-methylethyl)benzamide (1.0 g, 3.25 mmol) in isopropanol (30 mL) was added ethyl 4-aminobenzoate (0.59 g, 3.57 mmol, 1.1 eq) followed 0.2 mL of 12N HCl. The reaction mixture was sealed in vessel and heated in a 95° C. oil bath for 16 h. The reaction was cooled to room temperature then white solid was precipitated. The white solid was collected by filtration and washed with cooled isopropyl alcohol (3×5 mL) to give the titled compound (1.1 g, 77% yield). MS: M(C23H23FN5O3)=437.47, (M+H)+=438

reactant | 2-[(2-chloro-5-fluoro-4-pyrimidinyl)amino]-N-(1-methylethyl)benzamide | 3.25 mmol, 1.0 g | ClC1=NC=C(C(=N1)NC1=C(C(=O)NC(C)C)C=CC=C1)F | C14H14ClFN4O
reactant | ethyl 4-aminobenzoate | 3.57 mmol, 0.59 g, 1.1 eq | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | HCl | 12N, 0.2 mL | Cl | ClH
solvent | isopropanol | 30 mL | C(C)(C)O | C3H8O
product | Ethyl 4-({5-fluoro-4-[(2-{[(1 methylethyl)amino]carbonyl}phenyl)amino]-2pyrimidinyl}amino)benzoate | 1.1 g, 77% yield | FC=1C(=NC(=NC1)NC1=CC=C(C(=O)OCC)C=C1)NC1=C(C=CC=C1)C(=O)NC(C)C | C23H24FN5O3
